US04079179
p-Nitrobenzyl glycinate hydrobromide (7.15 g., 24.6 mMol) is suspended in H2O (15 ml.) and the mixture is layered with EtOAc (40 ml.). The mixture is cooled in ice and stirred while cold, saturated aqueous K2CO3 (6 ml.) is added. The layers are separated and the aqueous portion is extracted with more EtOAc (3 × 15 ml.). The combined EtOAc solution is dried over Na2SO4, filtered and evaporated in vacuo to provide p-nitrobenzyl glycinate (5.05 g., 24.0 mMol, 98% yield) as an off-white solid.

reactant | p-Nitrobenzyl glycinate hydrobromide | 24.6 mMol, 7.15 g | Br.NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-]
reactant | EtOAc | 40 ml | CCOC(=O)C | C4H8O2
reactant | K2CO3 | 6 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 15 ml | O | H2O
product | p-nitrobenzyl glycinate | 24.0 mMol, 5.05 g, 98% yield | NCC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H10N2O4
